US04772600
N-[2-(Dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
A solution of 2.3 g of N-[2-(dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide in hot isopropyl alcohol was acidified with concentrated hydrochloric acid. The solvents were evaporated under reduced pressure and the residue redissolved in hot isopropyl alcohol and methanol, filtered, and while still hot, isopropyl ether was added to the cloud point. Solid precipitated upon cooling to room temperature. The solid was collected by filtration to give 1.8 g of a white solid, mp 230°-234° C.

reactant | N-[2-(dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.3 g | CN(CCNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C | C19H20F3N5O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N-[2-(Dimethylamino)ethyl]-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | 1.8 g | Cl.CN(CCNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C | InChI=1S/C19H20F3N5O.ClH/c1-26(2)11-10-23-16(28)12-27-17(25-15-4-3-9-24-18(15)27)13-5-7-14(8-6-13)19(20,21)22;/h3-9H,10-12H2,1-2H3,(H,23,28);1H
